US07863302B2
5-(4-(5-Cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazol-4-ylmethoxy)-2-methyl-phenyl)-thiophene-2-carboxylic acid methyl ester
To a solution of (5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazol-4-yl)-methanol (0.188 g, 0.66 mmol), 5-(4-hydroxy-2-methyl-phenyl)-thiophene-2-carboxylic acid methyl ester (0.15 g, 0.60 mmol), and tri-N-butyl-phosphine (0.16 g, 0.79 mmol) in toluene (2 mL) is added a solution of ADDP (0.2 g, 0.79 mmol) in 1 mL of toluene. The reaction is stirred overnight. The reaction mixture is partitioned between ethyl acetate and water and the layers are separated. The organic layer is washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to yield a crude oil. The oil is chromatographed using a gradient of 10% ethyl acetate in hexanes to 40% ethyl acetate in hexanes to yield the title compound (0.14 g, 41%). ES/MS m/e 514.0 (M+1).

reactant | (5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazol-4-yl)-methanol | 0.66 mmol, 0.188 g | C1(CC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C13H11Cl2NO2
reactant | 5-(4-hydroxy-2-methyl-phenyl)-thiophene-2-carboxylic acid methyl ester | 0.60 mmol, 0.15 g | COC(=O)C=1SC(=CC1)C1=C(C=C(C=C1)O)C | C13H12O3S
reactant | ADDP | 0.79 mmol, 0.2 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-(5-Cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazol-4-ylmethoxy)-2-methyl-phenyl)-thiophene-2-carboxylic acid methyl ester | 0.14 g, 41% | COC(=O)C=1SC(=CC1)C1=C(C=C(C=C1)OCC=1C(=NOC1C1CC1)C1=C(C=CC=C1Cl)Cl)C | C26H21Cl2NO4S
